US09227918B2
To a solution of 0.429 g (1.81 mmol) of 2-methoxy-5-(2-nitrovinyl)benzoate in 18 mL of methanol was added 0.75 mL of 12 N HCl followed by 50 mg of 10% palladium on carbon. The mixture was stirred for 3 h under a balloon hydrogen atmosphere then degassed with nitrogen and filtered. Evaporation gave methyl 5-(2-aminoethyl)-2-methoxybenzoate hydrochloride as a sticky oil.

reactant | 2-methoxy-5-(2-nitrovinyl)benzoate | 1.81 mmol, 0.429 g | COC1=C(C(=O)[O-])C=C(C=C1)C=C[N+](=O)[O-]
reactant | HCl | 12 N, 0.75 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | methanol | 18 mL | CO | CH4O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | methyl 5-(2-aminoethyl)-2-methoxybenzoate hydrochloride | Cl.NCCC=1C=CC(=C(C(=O)OC)C1)OC | InChI=1S/C11H15NO3.ClH/c1-14-10-4-3-8(5-6-12)7-9(10)11(13)15-2;/h3-4,7H,5-6,12H2,1-2H3;1H
